US03960967
To a solution of 4-bromobenzotrifluoride (34.2 g.) in diethyl ether at -20° to -25°C. was added over 25 minutes 71 ml. of a 1.95 M solution of n-butyllithium in hexane. After stirring an additional 20 minutes at -20°C., a solution of 20 g. of sulfur dioxide in 50 ml. of diethyl ether was added over 10 minutes at -20° to -30°C. The suspension was allowed to come to room temperature over 45 minutes and the lithium p-trifluoromethylphenyl sulfinate was isolated by centrifugation. The solid was slurried with 200 ml. of diethyl ether and recentrifuged, collected and dried under vacuum. The product had m.p. 259.5°-264.5°C. and analyzed for 84% sulfinic acid salt.

reactant | 4-bromobenzotrifluoride | 34.2 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | n-butyllithium | C(CCC)[Li]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | lithium p-trifluoromethylphenyl sulfinate | FC(C1=CC=C(C=C1)S(=O)[O-])(F)F.[Li+] | InChI=1S/C7H5F3O2S.Li/c8-7(9,10)5-1-3-6(4-2-5)13(11)12;/h1-4H,(H,11,12);/q;+1/p-1
